US07888364B2
6-methylnicotinic acid (100 mg 0.14 mmol) was dissolved in 10% AcOH/benzene (1 mL) and treated with NBS (117 mg, 0.18 mmol) and benzoylperoxide (18 mg, 0.07 mmol). The reaction mixture was heated in a sealed microwave reactor at 120° C. for 1 min. The reaction mixture was diluted with ethyl acetate, washed with saturated aqueous NaHCO3, dried (MgSO4), concentrated and purified by silica gel chromatography to yield 6-(bromomethyl)pyridine-3-carboxylic acid.

reactant | 6-methylnicotinic acid | 0.14 mmol, 100 mg | CC1=NC=C(C(=O)O)C=C1 | C7H7NO2
reactant | NBS | 0.18 mmol, 117 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoylperoxide | 0.07 mmol, 18 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | AcOH benzene | 1 mL | CC(=O)O.C1=CC=CC=C1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-(bromomethyl)pyridine-3-carboxylic acid | BrCC1=CC=C(C=N1)C(=O)O | C7H6BrNO2
